US04237136
10 g of 2-amino-4-(4'-ethylphenyl)-thiazole are dissolved in 50 ml of ethanol and 8.4 g of acetylene dicarboxylic acid diethyl ester are added to the resulting solution. After standing overnight, the mixture is concentrated by evaporation in vacuo to dryness at a bath temperature of 40° to 50° C. 50 ml of chlorobenzene are added to the residue, followed by heating unter reflux for 1 hour. After concentration by evaporation in vacuo, the residue is dissolved in ether, treated with carbon, filtered and petroleum ether subsequently added. The product precipitating is washed with a little ether and dried. 3-(4'-ethylphenyl)-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester melting at 142°-144° C. is thus obtained.

reactant | 2-amino-4-(4'-ethylphenyl)-thiazole | 10 g | NC=1SC=C(N1)C1=CC=C(C=C1)CC | C11H12N2S
reactant | acetylene dicarboxylic acid diethyl ester | 8.4 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4'-ethylphenyl)-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(N=C2N1C(=CS2)C2=CC=C(C=C2)CC)=O | C17H16N2O3S
